US06384080B1
To a solution of (R)-5-cyano-2-(2-hydroxy-1-methylethylamino)-N-(1,3-benzodioxol-5-ylmethyl)benzamide (76 mg) in ethanol (6 mL) was added 1N-sodium hydroxide (0.65 mL), and the mixture was heated for 6 hours under reflux. The solvent was evaporated in vacuo. The residue was diluted with ethyl acetate and washed successively with water and brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was subjected to a silica gel column chromatography eluting with a mixture of chloroform and methanol (9:1) to give (R)-5-carbamoyl-2-(2-hydroxy-1-methylethylamino)-N-(1,3-benzodioxol-5-ylmethyl)benzamide (27 mg) as a solid substance.

reactant | (R)-5-cyano-2-(2-hydroxy-1-methylethylamino)-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 76 mg | C(#N)C=1C=CC(=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C1)N[C@@H](CO)C | C19H19N3O4
reactant | sodium hydroxide | 0.65 mL | [OH-].[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | (R)-5-carbamoyl-2-(2-hydroxy-1-methylethylamino)-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 27 mg | C(N)(=O)C=1C=CC(=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C1)N[C@@H](CO)C | C19H21N3O5
